US04587341
A. 2-(2-Naphthylmethyl)-3-anilinoacrylonitrile
To a mixture of 2-naphthaldehyde (4.69 g, 30 mmol) and beta-anilinopropionitrile (4.82 g, 33 mmol) in dimethyl sulfoxide (35 ml) was added potassium t-butoxide (3.70 g, 33 mmol). The solution immediately turned a dark red. It was heated at 100° for 30 minutes, cooled, and diluted with methanol (15 ml) and water (25 ml). A copious yellow precipitate formed, which was chilled and isolated. The precipitate, 2-(2-naphthylmethyl)-3-anilinoacrylonitrile, was washed with dilute methanol and hexane; yield, 7.65 g. A portion was recrystallized from absolute ethanol; m.p. 148°-153° C. Anal. Calcd. for C20H16H2 : C, 84.48; H, 5.67; N, 9.85. Found: 84.38; H, 5.69; N, 9.82.

reactant | 2-naphthaldehyde | 30 mmol, 4.69 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | beta-anilinopropionitrile | 33 mmol, 4.82 g | N(C1=CC=CC=C1)CCC#N | C9H10N2
reactant | potassium t-butoxide | 33 mmol, 3.70 g | CC(C)([O-])C.[K+]
solvent | dimethyl sulfoxide | 35 ml | CS(=O)C | C2H6OS
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
product | 2-(2-Naphthylmethyl)-3-anilinoacrylonitrile | C1=C(C=CC2=CC=CC=C12)CC(C#N)=CNC1=CC=CC=C1 | C20H16N2
